US04275071
4-(N-imidazolyl-acetyl)-bibenzyl (15/1532)
To a solution containing 3.4 g of imidazole in 5 ml of dimethylformamide, stirred at 0/+5° C., 2.58 g of 4-chloroacetyl-bibenzyl were slowly added. The reaction mixture was stirred for few minutes, then allowed to stand and then poured into water. The product thus formed was filtered off, purified by silica gel column chromatography (eluant: benzene/acetone) and then crystallized from ethyl acetate to give 2.24 g of the title compound melting at 134°-6° C. Yield 77%.

reactant | imidazole | 3.4 g | N1C=NC=C1 | C3H4N2
reactant | 4-chloroacetyl-bibenzyl | 2.58 g | ClCC(=O)C1=CC=C(C=C1)CCC1=CC=CC=C1 | C16H15ClO
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(N-imidazolyl-acetyl)-bibenzyl | 2.24 g, Yield 77% | N1(C=NC=C1)CC(=O)C1=CC=C(C=C1)CCC1=CC=CC=C1 | C19H18N2O
